US06951879B2
200 mg (0.54 mmol) 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-2-methyl-but-3-yn-2-ol in 2 ml THF were treated with 36 μl (5.6 mmol) 1.6 M N-Butyllithium in hexane at −78° C. for 30 min. 112 μl (0.81 mmol, 1.5 eq) Triethylamine in 0.5 ml THF and 117 μl (0.8 mmol, 1.5 eq) Diethylchlorophosphate in 0.5 ml THF were added and the solution was stirred at −78° C. over night and at 0° C. for 4 h. Water was added, and the inorganic phase was extracted with EtOAc, the combined organic phases were washed with brine and dried over Na2SO4. Column chromatography on silica gel with hexane:EtOAc 3:1 gave 90 mg (33%) Phosphoric acid 3-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-1,1-dimethyl-prop-2-ynyl ester diethyl ester as yellow semisolid, MS: 508 (MH+, 1Br).

reactant | 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-2-methyl-but-3-yn-2-ol | 0.54 mmol, 200 mg | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CC(C)(O)C | C18H14BrNOS
reactant | N-Butyllithium | 5.6 mmol, 1.6 M, 36 μl | [Li+].CCC[CH2-]
reactant | Triethylamine | 0.81 mmol, 112 μl, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | Diethylchlorophosphate | 0.8 mmol, 117 μl, 1.5 eq | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | Phosphoric acid 3-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-1,1-dimethyl-prop-2-ynyl ester diethyl ester | 90 mg, 33% | C(C)OP(OC(C#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1)(C)C)(OCC)=O | C22H23BrNO4PS
